US04594167
Sorbitol (1 mole), benzaldehyde (1 mole) and p-tolualdehyde (1 mole) were reacted by the usual method to give a 1:2:1 dibenzylidenesorbitol/benzylidene-(p-toluylidene) sorbitol/di(p-toluylidene) sorbitol mixture.

reactant | Sorbitol | 1 mole | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | benzaldehyde | 1 mole | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-tolualdehyde | 1 mole | C1(=CC=C(C=C1)C=O)C | C8H8O
product | dibenzylidenesorbitol benzylidene-(p-toluylidene) sorbitol di(p-toluylidene) sorbitol | C(C1=CC=CC=C1)=C([C@H]([C@H]([C@@H]([C@H](C(O)=CC1=CC=CC=C1)O)O)O)O)O.C(C1=CC=CC=C1)=C([C@H]([C@H]([C@@H]([C@H](C(O)=C1CC=C(C=C1)C)O)O)O)O)O.C1(=CCC(C=C1)=C([C@H]([C@H]([C@@H]([C@H](C(O)=C1CC=C(C=C1)C)O)O)O)O)O)C | InChI=1S/C20H26O6.C20H24O6.C20H22O6/c1-11-3-7-13(8-4-11)15(21)17(23)19(25)20(26)18(24)16(22)14-9-5-12(2)6-10-14;1-12-7-9-14(10-8-12)16(22)18(24)20(26)19(25)17(23)15(21)11-13-5-3-2-4-6-13;21-15(11-13-7-3-1-4-8-13)17(23)19(25)20(26)18(24)16(22)12-14-9-5-2-6-10-14/h3-7,9,17-26H,8,10H2,1-2H3;2-9,11,17-26H,10H2,1H3;1-12,17-26H/t3*17-,18+,19-,20-/m111/s1
